US08242125B2
To a solution of 4-(1H-indol-5-yloxy)-5-methyl-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester (400 mg, 1.092 mmol) in THF (10 mL) at 0° C., sodium hydride (74.2 mg, 1.856 mmol, 60% in mineral oil) is added. After 10 min, 1-isocyanato-3-trifluoromethyl-benzene (0.314 ml, 2.183 mmol) is added and the reaction is allowed to reach rt. After 2 h, a saturated solution of NH4Cl in water (5 mL) is added. The organics are extracted with EtOAc (×3), dried and evaporated to give the crude 5-methyl-4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester. MS (ESI) m/z 554.9 (M+1)

reactant | 4-(1H-indol-5-yloxy)-5-methyl-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | 1.092 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C1C)OC=1C=C2C=CNC2=CC1 | C20H22N4O3
reactant | sodium hydride | 1.856 mmol, 74.2 mg | [H-].[Na+]
reactant | 1-isocyanato-3-trifluoromethyl-benzene | 2.183 mmol, 0.314 ml | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 5-methyl-4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C1C)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C28H26F3N5O4
